US08242280B2
To a solution of 5-{3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-5-methyl-imidazolidine-2,4-dione (57 mg, 0.1 mmol) in methanol (2 mL) was added potassium hydroxide (50% w/v in water, 0.4 mL) and the resulting mixture was stirred at room temperature for 1 hour. The reaction solution was purified directly by mass-triggered reverse-phase HPLC to afford 5-{3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-5-methyl-imidazolidine-2,4-dione as a white powder (21 mg, 51%). MS: m/z 413 (M+H+). 1H NMR (500 MHz, DMSO-d6) δ 1.72 (s, 3H), 3.85 (s, 3H), 7.05 (t, 1H), 7.15 (d, 1H), 7.31 (dt, 1H), 7.49 (d, 1H), 7.51 (t, 1H), 7.57 (dd, 1H), 7.70 (d, 1H), 7.73 (d, 1H) 7.76 (s, 1H), 8.14 (d, 1H), 8.53 (d, 1H), 8.73 (s, 1H), 10.82 (s, 1H), 11.95 (s, 1H).

reactant | 5-{3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-5-methyl-imidazolidine-2,4-dione | 0.1 mmol, 57 mg | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C=2C=C(C=CC2)C2(C(NC(N2)=O)=O)C)S(=O)(=O)C2=CC=C(C=C2)C | C31H26N4O5S
reactant | potassium hydroxide | 0.4 mL | [OH-].[K+]
solvent | methanol | 2 mL | CO | CH4O
product | 5-{3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-5-methyl-imidazolidine-2,4-dione | 21 mg, 51% | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)C=2C=C(C=CC2)C2(C(NC(N2)=O)=O)C | C24H20N4O3
